US08222248B2
To a solution of 4-bromomethyl-3-nitrobenzoic acid (2.6 g, 10 mmol), MeOH (320 mg, 10 mmol) and DMAP (122 mg, 1 mmol) in methylene chloride (40 mL) was added DCC (2.06 g, 10 mmol) and the resulting mixture was stirred at ambient temperature for 2 h. The resulting precipitate was filtered and the filtrate evaporated under reduced pressure. The resulting oil was filtered through a plug of silica gel using methylene chloride as eluent. The solvent was removed under reduced pressure to give 4-bromomethyl-3-nitrobenzoic acid methyl ester as a pale-yellow oil.

reactant | 4-bromomethyl-3-nitrobenzoic acid | 10 mmol, 2.6 g | BrCC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | MeOH | 10 mmol, 320 mg | CO | CH4O
reactant | DCC | 10 mmol, 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 1 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl-3-nitrobenzoic acid methyl ester | COC(C1=CC(=C(C=C1)CBr)[N+](=O)[O-])=O | C9H8BrNO4
